US04970213
50 cm3 of phosphoryl chloride are added in the course of 40 minutes, with stirring, at between 5° and 10° C., to a mixture of 525 cm3 of trichloromethane and 49 cm3 of dimethylformamide, the mixture is stirred for 15 minutes at this temperature and the temperature is allowed to rise to about 20° C. 46.8 g of 6,7,8-trifluoro-3,4-dihydrocarbostyril are added progressively in the course of 20 minutes, at about 20° C., with vigorous stirring, to the solution obtained. The mixture is stirred for 30 minutes at a temperature close to 20° C., heated to about 60° C. and kept at this temperature for 2 hours and a half. The reaction mixture is concentrated under reduced pressure (20 kPa) at about 50° C. The oily residue is poured into 500 g of ice, with vigorous stirring. 100 g of sodium acetate are added in small fractions in the course of 30 minutes. The suspension obtained is poured in the course of 15 minutes, with vigorous stirring, into 1 liter of water which has previously been heated to about 90° C. and the mixture is stirred for a further 15 minutes at this temperature. The insoluble matter is drained at about 90° C. and washed with 3 times 250 cm3 of water. 47.7 g of 2-chloro-6,7,8-trifluoro-3-formyl-1,4-dihydroquinoline are obtained in the form of a colourless solid which decomposes at 220° C.

reactant | phosphoryl chloride | 50 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trichloromethane | 525 cm3 | ClC(Cl)Cl | CHCl3
reactant | dimethylformamide | 49 cm3 | CN(C=O)C | C3H7NO
reactant | 6,7,8-trifluoro-3,4-dihydrocarbostyril | 46.8 g | FC=1C=C2CCC(NC2=C(C1F)F)=O | C9H6F3NO
solvent | water | 1 liter | O | H2O
product | 2-chloro-6,7,8-trifluoro-3-formyl-1,4-dihydroquinoline | 47.7 g | ClC=1NC2=C(C(=C(C=C2CC1C=O)F)F)F | C10H5ClF3NO
